US07705027B2
Hydroxylamine hydrochloride (3.6 g, 52 mmol) was added to a solution of 4-(2,4-Bis-benzyloxy-5-tert-butyl-phenyl)-2-hydroxy-4-oxo-but-2-enoic acid ethyl ester (9.0 g, 18.5 mmol) in ethanol (75 ml) and the suspension heated under reflux for ˜4 hrs. The resulting solution was allowed to cool and poured into water (200 ml) to give an off-white precipitate. The solids were removed by filtration and taken up in dichloromethane (150 ml). The solution was washed with water (150 ml) and saturated aqueous sodium chloride solution (50 ml). The solution was dried over anhydrous sodium sulphate and concentrated to an off-white solid. Solids were washed with hexane and dried in vacuo (40° C.), to give 5-(2,4-bis-benzyloxy-5-tert-butyl-phenyl)-isoxazole-3-carboxylic acid ethyl ester as a pale brown powder (8.0 g, 89%).

reactant | Hydroxylamine hydrochloride | 52 mmol, 3.6 g | Cl.NO
reactant | 4-(2,4-Bis-benzyloxy-5-tert-butyl-phenyl)-2-hydroxy-4-oxo-but-2-enoic acid ethyl ester | 18.5 mmol, 9.0 g | C(C)OC(C(=CC(=O)C1=C(C=C(C(=C1)C(C)(C)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1)O)=O | C30H32O6
reactant | water | 200 ml | O | H2O
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 5-(2,4-bis-benzyloxy-5-tert-butyl-phenyl)-isoxazole-3-carboxylic acid ethyl ester | 8.0 g, 89% | C(C)OC(=O)C1=NOC(=C1)C1=C(C=C(C(=C1)C(C)(C)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C30H31NO5
